US07973063B2
1.9 ml (16 mmol) of benzyl bromide are added to a mixture of 4.4 g (19 mmol) of silver oxide and 3.5 g (13 mmol) of methyl (S)-3-(4-bromophenyl)-2-hydroxypropionate in 20 ml of diethyl ether. The reaction mixture is stirred at 50° C. for 12 hours. The mixture is filtered and then the solvents are evaporated. The residue is chromatographed on silica gel (heptane/ethyl acetate 80/20). 4 g of methyl (S)-3-(4-bromophenyl)-2-benzyloxypropanoate are obtained in the form of an oil. Yield=85%.

reactant | benzyl bromide | 16 mmol, 1.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | methyl (S)-3-(4-bromophenyl)-2-hydroxypropionate | 13 mmol, 3.5 g | BrC1=CC=C(C=C1)C[C@@H](C(=O)OC)O | C10H11BrO3
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
catalyst | silver oxide | 19 mmol, 4.4 g | [Ag]=O
product | methyl (S)-3-(4-bromophenyl)-2-benzyloxypropanoate | 4 g, Yield=85% | BrC1=CC=C(C=C1)C[C@@H](C(=O)OC)OCC1=CC=CC=C1 | C17H17BrO3
